US07834039B2
A 25 mL microwave reaction vial was charged with tert-butyl 2-(4-(chlorocarbonyl)phenoxy)acetate (0.815 g, 3.01 mmol) and pyridine (15 mL), (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide (0.459 g, 2.007 mmol) was added. The vessel was capped and the reaction heated at 200° C. for 20 min under microwave irradiation (Biotage Optimizer, 300 W). The mixture was cooled, the reaction mixture was poured into stirring HCl (10%, 100 mL), the resulting suspension was filtered, the solid was washed by HCl (5%, 2×10 mL) and dried to afford grey solid, which was purified by RP-HPLC (A=50 mM ammonium acetate, B=acetonitrile; 30-95% B over 25.0 min (21.0 mL/min flow rate); 21.2×250 mm Thermo Hyperprep C18 column, 8 μm particles) to give 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenoxy)acetic acid (0.246 g, 0.633 mmol, 31.5% yield) as white solid. LC/MS (Table 1, Method f) Rt=2.08 min.; MS m/z: 389.14 (M+H)+. 1H NMR (400 MHz, Solvent d-DMSO δ ppm 13.28-13.07 (m, 1H), 8.13 (d, J=9.03 Hz, 2H), 8.05 (d, J=2.13 Hz, 1H), 7.99 (dd, J=8.64, 2.15 Hz, 1H), 7.38 (d, J=9.04 Hz, 1H), 7.18 (d, J=9.06 Hz, 2H), 4.85 (s, 3H), 1.35 (d, J=6.03 Hz, 6H).

reactant | tert-butyl 2-(4-(chlorocarbonyl)phenoxy)acetate | 3.01 mmol, 0.815 g | ClC(=O)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C13H15ClO4
reactant | (Z)-3-chloro-N′-hydroxy-4-isopropoxybenzimidamide | 2.007 mmol, 0.459 g | ClC=1C=C(/C(/N)=N/O)C=CC1OC(C)C | C10H13ClN2O2
reactant | HCl | 100 mL | Cl | ClH
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-(3-(3-chloro-4-isopropoxyphenyl)-1,2,4-oxadiazol-5-yl)phenoxy)acetic acid | 0.633 mmol, 0.246 g, 31.5% yield | ClC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(OCC(=O)O)C=C1 | C19H17ClN2O5
